US06313071B1
0.53 g of methyl N-[2-fluoro-5-(3-hydroxy-1-butynyl)benzyl]carbamate was dissolved in 10 ml of toluene. This solution was added at 0° C. to a mixture comprising 0.11 g of calcium chloride, 0.08 g of copper(I) iodide, 0.01 g of copper and 10 ml of concentrated hydrochloric acid, followed by stirring at 0° C. for 5 hours. The reaction solution was poured into a saturated sodium chloride aqueous solution and extracted with ethyl acetate, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography to obtain 0.25 g of methyl N-[5-(3-chloro-1-butynyl)-2-fluorobenzyl]carbamate as white crystals.

reactant | methyl N-[2-fluoro-5-(3-hydroxy-1-butynyl)benzyl]carbamate | 0.53 g | FC1=C(CNC(OC)=O)C=C(C=C1)C#CC(C)O | C13H14FNO3
reactant | calcium chloride | 0.11 g | [Cl-].[Ca+2].[Cl-]
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 0.08 g | [Cu]I
catalyst | copper | 0.01 g | [Cu] | Cu
product | methyl N-[5-(3-chloro-1-butynyl)-2-fluorobenzyl]carbamate | 0.25 g | ClC(C#CC=1C=CC(=C(CNC(OC)=O)C1)F)C | C13H13ClFNO2
